US08071588B2
3-(Aminomethyl)-5-bromobenzonitrile
Hydrazine hydrate (85%, 1.31 g) was added to a suspension of 3-bromo-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzonitrile (3.50 g, 10.3 mmol) in EtOH (60 mL). The mixture was refluxed for 3 h. Then, at room temperature, 2 N HCl (20 mL) was added (pH=3), and the mixture was filtered and the solid was rinsed with water (20 mL×2). The filtrate was evaporated to about 50 mL and filtered again. After addition of NaHCO3 (pH=9), the filtrate was extracted with CH2Cl2 (50 mL×3). The combined extracts were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product. It was recrystallized from MeOH-Et2O yielding the product (1.40 g, 55%) as colorless fine needles. 1H NMR (400 MHz, D2O): δ 7.92 (m, 1H), 7.84 (m, 1H), 7.69 (m, 1H), 4.11 (s, 2H); 13C NMR (400 MHz, D2O): δ 137.1, 135.9, 135.8, 131.7, 123.0, 117.7, 113.8, 42.0; MS: m/z 209.0 (M+-HCl); HPLC: retention time: 9.313 min; purity: 98.4%.

reactant | Hydrazine hydrate | 1.31 g | O.NN
reactant | 3-bromo-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzonitrile | 10.3 mmol, 3.50 g | BrC=1C=C(C#N)C=C(C1)CN1C(C2=CC=CC=C2C1=O)=O | C16H9BrN2O2
reactant | HCl | 2 N, 20 mL | Cl | ClH
solvent | EtOH | 60 mL | CCO | C2H6O
product | 3-(Aminomethyl)-5-bromobenzonitrile | NCC=1C=C(C#N)C=C(C1)Br | C8H7BrN2
